Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
HPI: 

___ w/h/o of depression on escitalopram who is s/p recent R ACL 
repair on ___ in presents with pyelonephritis. 
. 
She initially presented to ED on ___ with bilateral lower 
lumbar pain and left flank pain.  She also noted some trouble 
with constipation and abdominal pain in the setting of taking 
oxycodone for her knee pain. She denied any dysuria or 
hematuria. She had a fever of 101 and presented to the ED where 
UA was c/w UTI/Pyelonephritis with +nitrates, +WBC, and 
+bacteria. She had no significant leukocytosis.She was also 
reviewed by ortho who noted R knee nontender with reassuring 
AROM and PROM of R knee. No evidence of infection on exam.  She 
was d/c'ed from the ED on cipro yesterday. No Ucx were sent. 
This morning she represented back pain,  vomiting and 
tachycardia. Triage vitals were 100.2  138  115  18  100% . Labs 
were notable for neutrophil predominant leukocytosis to 25K, 
lactate 2.7. She was managed in the ED with IV NS 2L, PO 
ondasternon, IV ketorolac, PO acetaminophen and was given IV 
ampicillin 1g.   
.
Of ___ she has h/o a previous UTI in ___ with Ucx + for 
pansensitive e.coli and enterococcal species which was treated 
with macrobid. 
. 
On arrival to the ward she reports feeling tired and sweaty. 
Pain in right flank is mild. No pain in knee. Was having nausea 
for the past 24h. Was able to take PO until last night when had 
several episodes of vomiting. Has ongoing subjective fevers and 
chills. She is on ___ and on day 11 of current pack. She denies 
any pelvic pain. Her constipation resolved yesterday with two 
bowl movements after started Colace. Her post surgical right 
knee pain is well controlled denies any worsening in pain or 
swelling of her knee. She has no previous history of GU problems 
except single episode of UTI as above. 

 
ROS: 
[x] 12 Point ROS reviewed. All other symptoms negative except as 
noted above. 
 
 
Past Medical History:
- Depression
- ACL rupture, s/p repair ___
 
Social History:
___
Family History:
NA
 
Physical Exam:
Admission EXAM
98.9  104/65  95  15  100%
Patient is tearful expressing frustration at being ill. "I want 
to remember what it feels like to feel normal". She however does 
not appear otherwise uncomfortable or in severe pain. She is in 
NAD, no pallor, lungs are clear, s1,s2, rrr, abdomen soft NTND, 
BS+X4Q, she has right CVA tenderness, no vertebral tenderness. 
right knee is in brace with mild swelling and effusion but no 
warmth and no significant tenderness with reasonable post 
surgical ROM. Anterior surgical wounds look c/d/I. No edema and 
no signs of DVT. Her distal ___ are WWP. 

DISCHARGE EXAM:
VS: 99  98.4  ___  18 100% on RA
Gen - No acute distress
Eyes - anicteric, EOMI, PERRL
ENT - moist mucous membranes, no nasal discharge, oropharynx 
clear
Cardiovascular - RR, s1s2 nl, no m/r/g, no edema
Respiratory - breathing comfortably, no accessory muscle 
use,CTAB with no wheezing, rhonchi or crackles
GI - soft, nontender, not distended, bowel sounds present
Back - no CVA tenderness
Skin - warm, dry, with no rash
MSK - right knee immobilizer in place; surgical wound healing 
well without significant drainage or erythema; otherwise normal 
strength throughout
Neuro - oriented to person, place, time, and reason for 
hospitalization; moving all 4 extremities; speech is fluent; no 
facial droop
Psych - alert, mildly anxious

 
Pertinent Results:
Admission Labs: 

___ 05:52AM BLOOD WBC-25.6*# RBC-3.46* Hgb-10.9* Hct-32.6* 
MCV-94 MCH-31.5 MCHC-33.4 RDW-12.1 RDWSD-42.2 Plt ___
___ 05:52AM BLOOD Neuts-87.4* Lymphs-4.8* Monos-5.6 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-22.35*# AbsLymp-1.23 
AbsMono-1.42* AbsEos-0.01* AbsBaso-0.05
___ 05:52AM BLOOD Glucose-147* UreaN-5* Creat-0.7 Na-134 
K-3.7 Cl-96 HCO3-23 AnGap-19
___ 05:52AM BLOOD ALT-12 AST-15 AlkPhos-76 TotBili-0.3
___ 05:52AM BLOOD Albumin-4.0 Calcium-9.3 Phos-3.4 Mg-2.0
___ 05:56AM BLOOD Lactate-2.7*

EKG:
EKG from ED  sinus tach 133, normal axis, QTc 0.44, diffuse non 
specific ST-T changes with NTW L3, V3, V4 and flat/biphasic T 
waves in AVF, V5, V6, which are not seen on EKG from day prior 
___.   

Notable Labs During Hospitalization:
___ Hapto-236* Ferritn-172*
___ BLOOD Ret Aut-3.0* Abs Ret-0.09

Discharge Labs:
___ WBC-11.1* RBC-2.98* Hgb-9.2* Hct-27.8* MCV-93 MCH-30.9 
MCHC-33.1 RDW-12.3 RDWSD-42.2 Plt ___
___ Glucose-90 UreaN-4* Creat-0.6 Na-138 K-3.7 Cl-105 
HCO3-23 AnGap-14
___ Calcium-8.5 Phos-2.9 Mg-2.1

Microbio:
___ URINE CULTURE (Final ___: <10,000 organisms/ml.
___ BLOOD CULTURE: NGTD, final result pending at time of 
discharge.

Notable Imaging:
___ Renal u/s
*FINDINGS:  The right kidney measures 12.8 cm. The left kidney 
measures 12.1 cm. There is no hydronephrosis, stones, or masses 
bilaterally.  Normal cortical echogenicity and corticomedullary 
differentiation are seen bilaterally. The bladder is only 
minimally distended and can not be fully assessed on the current 
study. 
*IMPRESSION:  Unremarkable renal ultrasound.  No stone or 
hydronephrosis. 

 
Brief Hospital Course:
___ y/o F w/ recent right ACL surgery and chronic depression 
presented with nausea, vomiting, left flank pain, pyuria and 
sepsis.  She was treated with IV abx (unasyn) based on prior UCx 
results (from ___ in which pan-sensitive Enterococcus 
and pan-sensitive E. coli both grew.  She was treated with PRN 
meds for pain and nausea.  She responded well to unasyn, with 
resolution of fever, downtrending leukocytosis, and resolution 
of her nausea/vomiting.  UCx from admission did not grow an 
organism. She was transitioned to oral Augmentin at the time of 
discharge, with plans to complete a total 14 day course of 
empiric abx for pyelonephritis (day 1 of antibiotics on ___. 
She was also discharged with 6 tabs of Ativan 1 mg PO q8h PRN 
nausea for lingering, but overall much improved nausea.

Of note, she also had a significant normocytic anemia on 
admission, with nadir at 9, it was stable at the time of 
discharge.  RDW was wnl.  Reticulocyte count was appropriately 
elevated. Hemolysis labs were negative. Ferritin was elevated at 
157 suggesting this was not iron deficiency.  She manifested no 
signs or symptoms of overt blood loss.  We would expect this to 
resolve after her acute illness resolves, but would recommend 
repeat CBC in ___ days to follow-up her anemia.

Also of note, EKG on admission had non specific ST-T wave 
changes: she had no cardiovascular symptoms and no coronary risk 
factors. These were thought to be likely due to tachycardia and 
some electrolyte and acid-base abnormalities in the setting of 
dehydration/sepsis.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 15 mg PO DAILY 
2. Minastrin ___ Fe (norethindrone-e.estradiol-iron) 1 mg-20 
mcg(24) /75 mg (4) oral qday 
3. OxycoDONE (Immediate Release)  5 mg PO Q4-6H:PRN pain 
4. Docusate Sodium 100 mg PO BID 
5. Senna 8.6 mg PO BID:PRN constipation 
6. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. Escitalopram Oxalate 15 mg PO DAILY 
4. Minastrin ___ Fe (norethindrone-e.estradiol-iron) 1 mg-20 
mcg(24) /75 mg (4) oral qday 
5. OxycoDONE (Immediate Release)  5 mg PO Q4-6H:PRN pain 
6. Senna 8.6 mg PO BID:PRN constipation 
7. Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 10 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tab by mouth 
every twelve (12) hours Disp #*20 Tablet Refills:*0
8. Lorazepam 1 mg PO Q8H:PRN nausea/vomiting Duration: 2 Days 
RX *lorazepam [Ativan] 1 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*6 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pyelonephritis with sepsis
normocytic anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - with one crutch, right knee 
immobilizer in place
General: well-appearing

 
Discharge Instructions:
You were admitted for kidney infection and treated with 
antibiotics and fluid infusion. You will need to take oral 
antibiotics for the next ___ days.  You were also found to have a 
mild anemia.  Please follow up with your primary care physician 
___ ___ days to ensure that you are responding well to 
antibiotics and to have labs drawn to evaluate for improvement 
in your anemia.
 
Followup Instructions:
___